US07423181B2
2′-Bromo-4-(2-dimethylamino-ethoxy)-biphenyl-3-carbaldehyde
General procedure G, using 4-(2-dimethylamino-ethoxy)-3-formyl-benzeneboronic acid and 1-bromo-2-iodo-benzene gave the title product as yellow oil in 68% yield. 1H-NMR (CDCl3) δ 10.51 (s, 1H), 7.90 (d, 1H), 7.70-7.65 (m, 2H), 7.41-7.20 (m, 3H), 7.09 (d, 1H), 4.40 (t, 2H), 3.04 (bs, 2H), 2.56 (s, 6H).

reactant | 4-(2-dimethylamino-ethoxy)-3-formyl-benzeneboronic acid | CN(CCOC1=C(C=C(C=C1)B(O)O)C=O)C | C11H16BNO4
reactant | 1-bromo-2-iodo-benzene | BrC1=C(C=CC=C1)I | C6H4BrI
product | 2′-Bromo-4-(2-dimethylamino-ethoxy)-biphenyl-3-carbaldehyde | 68% yield | BrC1=C(C=CC=C1)C1=CC(=C(C=C1)OCCN(C)C)C=O | C17H18BrNO2
